US07935702B2
4. N,N-Bis-(4-methoxybenzyl)-(6-chloro-5-trifluoromethylpyridine-2-yl)amine
Add bis(4-methoxybenzyl)amine (35.7 g, 138.9 mmol) in 20 mL of N-methylpyrrolidone to a solution of 2,6-dichloro-3-trifluoromethylpyridine (20 g, 92.6 mmol) and triethylamine (19.4 mL, 138.9 mmol) in 100 mL of N-methylpyrrolidone. Raise the temperature to 120° C., and stir the reaction for 14 hours. Quench the reaction mixture by the addition of water (80 mL), followed by extraction with EtOAc (3×70 mL). Wash the combined organic extracts with water (2×70 mL) and brine (70 mL), and dry over anhydrous Na2SO4. Filter the dried extract and concentrate under vacuum to afford the crude product, which is purified by column chromatography to give a yellow solid. 1H NMR (400 MHz, CDCl3) δ 7.58 (d, 1H, J=8.4 Hz), 7.15 (m, 4H), 6.85 (m, 4H), 6.31 (d, 1H, J=8.8 Hz), 4.70 (s, 4H), 3.80 (s, 6H). Mass spec. (436.99, M+H).

reactant | bis(4-methoxybenzyl)amine | 138.9 mmol, 35.7 g | COC1=CC=C(CNCC2=CC=C(C=C2)OC)C=C1 | C16H19NO2
reactant | 2,6-dichloro-3-trifluoromethylpyridine | 92.6 mmol, 20 g | ClC1=NC(=CC=C1C(F)(F)F)Cl | C6H2Cl2F3N
reactant | triethylamine | 138.9 mmol, 19.4 mL | C(C)N(CC)CC | C6H15N
solvent | N-methylpyrrolidone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | N-methylpyrrolidone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | N,N-Bis-(4-methoxybenzyl)-(6-chloro-5-trifluoromethylpyridine-2-yl)amine | COC1=CC=C(CN(CC2=CC=C(C=C2)OC)C2=NC(=C(C=C2)C(F)(F)F)Cl)C=C1 | C22H20ClF3N2O2
